US03952012
An acylating solution is prepared by the slow addition of 278 g. (1.58 moles) of p-chlorobenzoyl chloride to 210 g. (1.58 moles) of aluminum chloride in 750 ml. of ethylene chloride. The resulting solution is added to a solution of 190 g. (1.58 moles) of N-methylpyrrole-2-acetonitrile in 750 ml. of ethylene chloride. The temperature is maintained at 20°-22°C. during the addition; and the solution is further stirred at room temperature for one hour. The solution is then heated rapidly to 74°-76°C. at which point there is a vigorous evolution of hydrogen chloride gas. This temperature is maintained about 5 minutes and the solution is cooled rapidly and poured into ice water. The product is extracted with methylene chloride and washed with water. The organic solution is then shaken with an excess of an aqueous solution of N,N-dimethylaminopropylamine followed by dilute hydrochloric acid in order to remove any excess p-chlorobenzoyl chloride. After a final wash with brine, the solution is dried over anhydrous magnesium sulfate. Distillation of the solvent leaves a residue which crystallizes. Recrystallization from methyl alcohol yields the product, 5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetonitrile, m.p. 120°-124°C. After two additional recrystallizations from methanol, the m.p. is 127°-131°C.

reactant | p-chlorobenzoyl chloride | 1.58 moles | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | aluminum chloride | 1.58 moles | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N-methylpyrrole-2-acetonitrile | 1.58 moles | CN1C=CC=C1CC#N | C7H8N2
reactant | hydrogen chloride | Cl | ClH
solvent | ethylene chloride | C(CCl)Cl | C2H4Cl2
product | 5-(p-chlorobenzoyl)-1-methylpyrrole-2-acetonitrile | ClC1=CC=C(C(=O)C2=CC=C(N2C)CC#N)C=C1 | C14H11ClN2O
